US07655666B2
N-(2,4-Dioxo-6-pyrimidin-5-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide
A solution of 2-amino-5-pyrimidin-5-yl-4-trifluoromethyl-benzoic acid methyl ester (518 mg, 1.74 mmol) and 4-chlorophenyl chloroformate (244 μL, 1.74 mmol) in dioxane (8 mL) was stirred at 80° C. for 2 h. After cooling to r.t., CH3SO2NHNH2 (230.4 mg, 2.1 mmol) and i-Pr2NEt (609 μL, 3.49 mmol) were added. The mixture was heated to 80° C. for 4 h and, cooled to r.t., and the solvent was removed in vacuo. The residue was purified by flash chromatography (120 g silica gel, DCM→MeOH in DCM (2% to 5%)). The product was sonicated in MeOH/Et2O to furnish the title compound (252 mg, 36%) as a beige powder. API-ES: m/z 402 [M+H]+, rt 2.52 min.

reactant | 2-amino-5-pyrimidin-5-yl-4-trifluoromethyl-benzoic acid methyl ester | 1.74 mmol, 518 mg | COC(C1=C(C=C(C(=C1)C=1C=NC=NC1)C(F)(F)F)N)=O | C13H10F3N3O2
reactant | 4-chlorophenyl chloroformate | 1.74 mmol, 244 μL | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | CH3SO2NHNH2 | 2.1 mmol, 230.4 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | i-Pr2NEt | 3.49 mmol, 609 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | N-(2,4-Dioxo-6-pyrimidin-5-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 252 mg, 36% | O=C1NC2=CC(=C(C=C2C(N1NS(=O)(=O)C)=O)C=1C=NC=NC1)C(F)(F)F | C14H10F3N5O4S
